US08217064B2
Diethyl 2-isobutyl-2-(4-nitro-3-(trifluoromethyl)phenyl)malonate
To a solution of diethyl isobutylmalonate (50.0 g, 231 mmol) in anhydrous DMF (200 mL) cooled in an ice bath was added NaH (60%, 11.1 g, 277 mmol) in small portions. After the addition, the reaction mixture was stirred at 0° C. for 10 min and then at room temperature for 30 min. 5-Chloro-2-nitrobenzotrifluoride (47.3 g, 210 mmol) in anhydrous DMF (50 mL) was added dropwise and the mixture was stirred at room temperature for two days. The DMF was removed under high vacuum and the residue was diluted with ethyl acetate (400 mL). Water (400 mL) was added dropwise; ammonium chloride (25 g) was added and the layers were separated. The organic layer was washed with brine (400 mL), dried over sodium sulfate, and concentrated under reduced pressure to give a red-brown oil, which was purified by silica-gel flash chromatography eluting with heptane/ethyl acetate (12:1) to give the desired product diethyl 2-isobutyl-2-(4-nitro-3-(trifluoromethyl)phenyl)malonate (74.4 g, 87%) as a yellow oil: 1H NMR (300 MHz, CDCl3): δ 8.07 (s, 1 H), 7.94 (d, 2 H, J=8.7 Hz), 7.88 (d, 2 H, J=8.7 Hz), 4.25 (m, 4 H), 2.33 (d, 2 H, J=6.6 Hz), 1.51 (m, 1 H), 1.26 (t, 6 H, J=7.2 Hz), 0.84 (d, 6H, J=6.6 Hz); 13C NMR (75 MHz, CDCl3): δ 169.23, 146.71, 142.86, 132.94, 127.94 (q, J=5 Hz), 124.55, 123.12 (q, J=33 Hz), 121.79 (q, J=272 Hz), 62.19, 61.59, 44.16, 24.66, 23.66, 13.89.

reactant | diethyl isobutylmalonate | 231 mmol, 50.0 g | C(C(C)C)C(C(=O)OCC)C(=O)OCC | C11H20O4
reactant | NaH | 277 mmol, 11.1 g | [H-].[Na+]
reactant | 5-Chloro-2-nitrobenzotrifluoride | 210 mmol, 47.3 g | ClC=1C=CC(=C(C1)C(F)(F)F)[N+](=O)[O-] | C7H3ClF3NO2
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | diethyl 2-isobutyl-2-(4-nitro-3-(trifluoromethyl)phenyl)malonate | 74.4 g, 87% | C(C(C)C)C(C(=O)OCC)(C(=O)OCC)C1=CC(=C(C=C1)[N+](=O)[O-])C(F)(F)F | C18H22F3NO6
